US07476666B2
Step 1: Methyl 3-benzyloxy-5,7-dimethyl-4-oxo-4,5-dihydropyrazolo[1,5-a]pyrazine-2-carboxylate
To a solution of methyl 3-benzyloxy-5-methyl-7-methylsulfonyloxymethyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate (57 mg, 0.14 mmol) in anhydrous DMF under an atmosphere of nitrogen was added piperidine (133 μL, 1.35 mmol). The reaction was stirred at room temperature for 2 hours, heated to 50° C. for 2 hours, and stirred at room temperature overnight. Purification by reverse phase chromatography on a C-18 column using a gradient elution of 95-5% H2O (0.1% TFA)/CH3CN (0.1% TFA) and collection and concentration of the appropriate fractions afforded the title product. ES MS (M+H)=328.

reactant | methyl 3-benzyloxy-5-methyl-7-methylsulfonyloxymethyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate | 0.14 mmol, 57 mg | C(C1=CC=CC=C1)OC=1C(=NN2C1C(N(CC2COS(=O)(=O)C)C)=O)C(=O)OC | C18H21N3O7S
reactant | piperidine | 1.35 mmol, 133 μL | N1CCCCC1 | C5H11N
solvent | DMF | CN(C)C=O | C3H7NO
product | Methyl 3-benzyloxy-5,7-dimethyl-4-oxo-4,5-dihydropyrazolo[1,5-a]pyrazine-2-carboxylate | C(C1=CC=CC=C1)OC=1C(=NN2C1C(N(C=C2C)C)=O)C(=O)OC | C17H17N3O4
